US07112584B2
(±)-6-[4-(Benzo[1,3]dioxol-4-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeroyl-amino]-4-methyl-2,3-benzoxazin-1-one
2.67 g of 6-[4-(benzo[1,3]dioxol-4-yl)-4-methyl-2-oxo-valeroyl-amino]-4-methyl-2,3-benzoxazin-1-one is dissolved under argon in 35 ml of dimethylformamide and mixed with 4.66 ml of trifluoromethyl-trimethylsilane and 2.6 g of cesium carbonate while being cooled with ice. After 18 hours of stirring at room temperature, a spatula tip full of tetrabutylammonium fluoride is added, and it is stirred for one hour at room temperature. After 300 ml of water is added, it is extracted with ethyl acetate, the organic phase is dried (Na2SO4) and concentrated by evaporation. The crude product is chromatographed on silica gel. With hexane/ethyl acetate (80:20), 1.33 g of the title compound is obtained in a pure state.

reactant | 6-[4-(benzo[1,3]dioxol-4-yl)-4-methyl-2-oxo-valeroyl-amino]-4-methyl-2,3-benzoxazin-1-one | 2.67 g | O1COC2=C1C=CC=C2C(CC(C(=O)NC=2C=CC1=C(C(=NOC1=O)C)C2)=O)(C)C | C22H20N2O6
reactant | trifluoromethyl-trimethylsilane | 4.66 ml | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | cesium carbonate | 2.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | (±)-6-[4-(Benzo[1,3]dioxol-4-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeroyl-amino]-4-methyl-2,3-benzoxazin-1-one | 1.33 g | O1COC2=C1C=CC=C2C(CC(C(=O)NC=2C=CC1=C(C(=NOC1=O)C)C2)(C(F)(F)F)O)(C)C | C23H21F3N2O6
